US06407066B1
A solution of N-benzyl-L-pyroglutamic acid (J. Am. Chem. Soc. 106:4539 (1984), 10.00 g, 45.62 mmol), L-tyrosine tert-butyl ester (11.91 g, 50.17 mmol) and BOP (22.19 g, 50.17 mmol) in DMF (250.0 mL) was charged to a 500 mL round bottom flask equipped with a stir bar and nitrogen inlet. Triethylamine (7.00 mL, 50.17 mmol) was added dropwise and the resulting solution was stirred at 25° C. for 16 h. The solution was transferred to a 1.0 L separatory funnel with ethyl acetate (300 mL) and washed with saturated sodium bicarbonate solution (300 mL×2), brine (300 mL×2), dried (MgSO4) and the solvent removed to give 18.63 g (93%) of N-(benzyl)-L-pyroglutamyl-L-tyrosine tert-butyl ester as a white solid.

reactant | N-benzyl-L-pyroglutamic acid | 45.62 mmol, 10.00 g | C(C1=CC=CC=C1)N1[C@@H](CCC1=O)C(=O)O | C12H13NO3
reactant | L-tyrosine tert-butyl ester | 50.17 mmol, 11.91 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | BOP | 50.17 mmol, 22.19 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Triethylamine | 50.17 mmol, 7.00 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 250.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-(benzyl)-L-pyroglutamyl-L-tyrosine tert-butyl ester | 18.63 g, 93% | C(C)(C)(C)OC([C@@H](NC([C@H]1N(C(CC1)=O)CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C25H30N2O5
